Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
prednisone / adhesive tape
 
Attending: ___.
 
Chief Complaint:
Atrial flutter  
 
Major Surgical or Invasive Procedure:
EP report: ___ -- TEE/___ followed by a CTI line ablation 
on ___

 
History of Present Illness:
This is a ___ man with a history of hypertension and 
prior total knee arthroplasties who presented to the ED after 
being seen by a physician's office for a heart rate in the ___. 
He has not had any lightheadedness, chest pain, chest pressure, 
or sensation of any palpitations.  He does not have a history of
syncope.
___ is followed by ___ orthopedics for history of 
bilateral knee replacements.  He is in the process of getting 
these re-replaced.

Otherwise, the patient denies chest pain, shortness of breath, 
palpitations, orthopnea, PND, lower extremity edema, dizziness, 
presyncope, or syncope.

 
Past Medical History:
PAST CARDIAC HISTORY:
-Hypertension, on metoprolol 50 mg twice daily

OTHER PAST MEDICAL HISTORY:
-Osteoarthritis status post total knee arthroplasties
 
Social History:
___
Family History:
Father with a history of premature CAD.  No family history of
sudden death

 
Physical Exam:
ADMISSION: 
PHYSICAL EXAMINATION 
Pulse ___ bpm, regular, BP 146/83, afebrile 
Gen: Pleasant, calm, in no distress
HEENT: No conjunctival pallor. MMM. OP clear.  
NECK: JVP low. Normal carotid upstroke without bruits.   
CV: PMI in ___ intercostal space, mid clavicular line. 
Bradycardic.  Distant heart sounds
LUNGS: CTAB. No wheezes, rales, or rhonchi.  
ABD: Soft, NT, ND. Normal bowel sounds, no abdominal bruits.  
EXT: WWP, bilateral venous stasis changes
SKIN: No rashes/lesions, ecchymoses.  
NEURO: A&Ox3. CN ___ grossly intact. Preserved sensation
throughout. ___ strength throughout. 

DISCHARGE EXAM: 
Well appearing ___ year old male in NAD
VS:T 97.9 BP 145/77 HR 59 RR 16 O2 sat 95% on room air 
General: sitting in chair, no complaints 
Neuro: Alert and oriented, speech clear and fluid, moving all 
extremities. No focal deficits. 
Resp: Lung sounds clear to auscultation throughout. RR. mild 
dyspnea with position changes
Cardiac: JVP non-distended; S1S2, III/VI systolic murmur loudest 
at RSB; no rub or gallop
Abdomen: +BS; Soft, nontender, nondistended 
Skin/extremities: Right groin access site with significant 
medial ecchymosis, no hematoma, no bruit. Intact palpable pedal 
pulses bilaterally; no pedal edema; bilateral venous stasis 
changes

Telemetry: 50s SB 1st degree AVB; occ PVC
 
Pertinent Results:
___ 07:30AM BLOOD WBC-5.5 RBC-4.14* Hgb-12.6* Hct-39.3* 
MCV-95 MCH-30.4 MCHC-32.1 RDW-13.2 RDWSD-46.0 Plt ___
___ 07:30AM BLOOD Neuts-67.4 ___ Monos-9.4 Eos-2.4 
Baso-0.7 Im ___ AbsNeut-3.71 AbsLymp-1.08* AbsMono-0.52 
AbsEos-0.13 AbsBaso-0.04
___ 11:26AM BLOOD Glucose-93 UreaN-15 Creat-0.7 Na-137 
K-4.4 Cl-102 HCO3-26 AnGap-9*
___ 11:26AM BLOOD cTropnT-<0.01
___ 11:26AM BLOOD Calcium-8.7 Phos-3.7 Mg-2.2
___ 11:26AM BLOOD TSH-3.0
___ 07:30AM BLOOD 25VitD-18*

___ 07:10AM BLOOD Hct-36.2* Plt ___
___ 07:10AM BLOOD UreaN-12 Creat-0.8 Na-141 K-4.1 Cl-103 
HCO3-27 AnGap-11
___ 07:10AM BLOOD Mg-2.1
 
Brief Hospital Course:
Presented from PCP's office with new onset slow Atrial 
fibrillation/flutter. Metoprolol 50 mg bid was stopped and he 
was started on apixaban 5 mg bid; 

On ___ he underwent TEE/DCCV; TEE did not show any 
intracardiac thrombus. He received on 200 J shock and was 
successfully cardioverted from atrial fibrillation to sinus 
rhythm.  On ___ he underwent a successful atrial flutter 
ablation. Discharge home was planned after the ablation but the 
patient complained of headache, shortness of breath, and 
dizziness with ambulation.  His blood pressure was elevated and 
he complained of nausea; Lisinopril was started for blood 
pressure control. 

The day following the procedure he vomited x1 after eating 
breakfast.  He had a mild headache which resolved with 
acetaminophen, but no further dizziness; He ambulated in the 
hallways with a cane and tolerated well; no dizziness/steady; 
ate lunch without problem; no further nausea/vomiting/headache; 

He will be discharged home.  Metoprolol has been stopped. He 
will take apixaban 5 mg bid and lisinopril 5 mg daily.  He will 
need to have blood work checked in 1 week on the lisinopril -- 
lytes, renal function -- lab slip provided.  Discharge activity 
guidelines were reviewed.  Mr. ___ verbalized understanding 
of the discharge instructions and plan for discharge home.  He 
will have follow up with his PDP within a week, and with ___. 
___, NP within a month.
 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 10 mg PO QPM 
2. Metoprolol Tartrate 50 mg PO BID 
3. Aspirin 81 mg PO QAM 
4. albuterol sulfate 90 mcg/actuation inhalation Q4H:PRN 
shortness of breath or wheezing 
5. FoLIC Acid 1 mg PO QAM 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID  
2.  Lisinopril 5 mg PO DAILY 
It replaces metoprolol. You need blood work in 1 week to monitor 
your response.  
3.  albuterol sulfate 90 mcg/actuation inhalation Q4H:PRN 
shortness of breath or wheezing  
4.  Atorvastatin 10 mg PO QPM  
5.  FoLIC Acid 1 mg PO QAM  
6.Outpatient Lab Work
Blood work: Bun, Creatinine, Lytes -- check in 1 week

Results to Dr. ___, MD ___ ___ 

ICD10 N18.9

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Atrial flutter
Bradycardia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

PE:
Well appearing ___ year old male in NAD
VS:T 97.9  BP 145/77  HR 59 RR 16 O2 sat 95% on room air 
General: sitting in chair, no complaints 
Neuro: Alert and oriented, speech clear and fluid, moveing all 
extremities. No focal deficits. 
Resp: Lung sounds clear to auscultation throughout. RR. mild 
dyspnea with position changes
Cardiac: S1S2, III/VI systolic murmur loudest at RSB; no rub or 
gallop
Abdomen: +BS; Soft, nontender, nondistended 
Skin/extremities: Right groin access site with significant 
medial ecchymosis, no hematoma, no bruit. Intact palpable pedal 
pulses bilaterally; no pedal edema

Plan:
#Atrial flutter: now s/p DCCV and ablation. D/c'd metoprolol 
post ablation d/t bradycardia with HR 38-40s. Started on 
apixaban,
patient concerned with high copay on discharge. First month
covered by coupon but he will have to pay one time payment of 
$395 (donut hole) for next month's prescription. He is in 
agreement to continue apixaban with cost for time being.  He had 
a episode of nausea, SOB, H/A after BR from ablation may be 
related to anesthesia,
orthostatics negative.     
 -continue apixaban 5mg BID for anticoagulation on discharge
 -discuss anticoagulation plan on follow up with ___ if
patient want to continue with apixaban or switch to coumadin for
cost concerns
 - stop metoprolol

#HTN: took metoprolol 50mg BID for HTN at home. Now d/cd due to
bradycardia. Blood pressure elevated to SBP 200mmHg with
ambulation and then down to SBP Of 160mmHg 
 -Started lisinopril 5mg daily
 -check lytes and renal function at PCP follow up visit -- lab 
slip provided
# Dispo
- home
 

 
Discharge Instructions:
You had a cardioversion to return your heart to a regular rhythm 
and then had an ablation to treat the abnormal rhythm known as 
atrial flutter.

 Continue your current medications with the following changes:  
 - STOP metoprolol 
  -STOP aspirin- this is not needed while you are on Eliquis 
(apixaban -- a blood thinner)
 - START apixaban (Eliquis)5 mg twice daily, "blood thinner" 
medication to decrease your stroke risk associated with atrial 
flutter
It is important that apixaban is not stopped in the next ___ days 
because you have an elevated risk for stroke in the first month 
after cardioversion.
 - START lisinopril 5 mg daily to replace metoprolol -- to help 
control your blood pressure

Because we have replaced the metoprolol which was prescribed for 
your high blood pressure, with lisinopril, you should ensure to 
follow up with your primary care early next week for a blood 
pressure check. Your blood pressure has been stable this 
hospitalization. 
We were unable to make this appointment with your primary care 
because the office was closed. Please call on ___ to 
schedule. 

You should have blood work checked at your visit with your PCP 
since starting the lisinopril -- this will check its effect on 
your kidneys.

Additionally, during your ablation while you were under sedation 
it is was noted by anesthesia that you likely have sleep apnea 
which requires treatment with a CPAP machine during sleep. 
Untreated sleep apnea increases your stroke risk and 
reoccurrence of atrial flutter. Please discuss this with your 
primary care doctor. A Sleep study may be recommended.

 Activity restrictions and information regarding care of the 
access sites in the R groin are included in your discharge 
instructions.  
 
If you were given any prescriptions on discharge, any future 
refills will need to be authorized by your outpatient providers, 
primary care or cardiologist.  If the cost of the Apixaban 
becomes prohibitive, discuss an alternative during your follow 
up appointment with NP ___.
 
If you have urgent questions that are related to your recovery 
from your procedure or are experiencing any symptoms that are 
concerning to you and you think you may need to return to the 
hospital, you may call the ___ Heart Line at ___ to 
speak to a cardiologist or cardiac nurse practitioner.  

It has been a pleasure to have participated in your care and we 
wish you the best with your health.  

Your ___ Cardiac Care Team  

 
Followup Instructions:
___